Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
seasonal allergies
 
Attending: ___
 
Chief Complaint:
high-grade superficial papillary urothelial carcinoma 
gross hematuria
 
Major Surgical or Invasive Procedure:
Cystoscopy, removal of right ureteral stent, right 
robotic-assisted laparoscopic nephrectomy with total 
ureterectomy and excision of bladder cuff, instillation of 
intravesical chemotherapy.

 
History of Present Illness:
___ man who presented with history of gross hematuria 
and right-sided
hydronephrosis.  Workup including a cytology and CT scan was 
positive for high-grade urothelial carcinoma and identification 
of a tumor in the right proximal ureter.  He underwent 
cystoscopy and selective cytology on ___,
demonstrating high-grade superficial papillary urothelial 
carcinoma overlying the right ureteral orifice and then, a tumor 
was seen in the proximal ureter, which was biopsied, confirming 
diagnosis of urothelial carcinoma. 
 
Past Medical History:
hernia repair with mesh about ___ years ago and that a blood 
vessel was impacted. He had pain and swelling in the testicle. 
He subsequently underwent varicocelectomy and epididymal surgery 
at the ___. He continues to have pain and swelling of the 
testicle. He also reports swelling around the mesh. The pain is 
worse with sitting for extended periods of time as well as with 
exercise. 

He has nocturia which is unchanged for him. He denies 
significant
feelings of incomplete emptying.

OSTEOARTHRITIS   
Basal cell carcinoma
Diverticulosis
Duputren's contracture
Glucose intolerance
Hypercholesterolemia
Hypertension
Obstructive sleep apnea
Prostatic hypertrophy
Depression                                           

Surgical Hx:
Bilateral inguinal herniorrhaphy
Scrotal varicocelectomy, Left
Tonsillectomy
Total hip replacement, right                         
Total left knee replacement                

Allergies: Sulfasalazine, seasonal   

 
Social History:
___
Family History:
Positive for cancer, osteoporosis
[-] Nephrolithiasis
[-] Malignant Hyperthermia
[-] Renal Cell CA
[-] Testisa CA
[-] Prostate CA
[-] Bladder CA

Father died of ?liver cancer
 
Physical Exam:
WdWn, NAD, AVSS
Interactive, cooperative
Abdomen soft, appropriately tender along incisions
Incisions otherwise c/d/I
IUC in place; secured to medial thigh
Extremities w/out edema or pitting and there is no reported calf 
pain to deep palpation

 
Pertinent Results:
___ 06:40AM BLOOD WBC-8.9 RBC-3.55* Hgb-11.3* Hct-35.4* 
MCV-100* MCH-31.8 MCHC-31.9* RDW-12.1 RDWSD-44.9 Plt ___

___ 06:40AM BLOOD Glucose-121* UreaN-15 Creat-1.4* Na-140 
K-4.1 Cl-104 HCO3-22 AnGap-14

___ 06:40AM BLOOD Calcium-8.6 Phos-3.5 Mg-2.___r. ___ was admitted to Urology with a right ureteral tumor 
known to be urothelial carcinoma after undergoing cystoscopy, 
removal of right ureteral stent,
right robotic-assisted laparoscopic nephrectomy with total 
ureterectomy and excision of bladder cuff, instillation of 
intravesical chemotherapy. No concerning intraoperative events 
occurred; please see dictated operative note for details. The 
patient received perioperative antibiotic prophylaxis. Dr. 
___ was transferred to the floor from the PACU in stable 
condition. On POD0, pain was well controlled on PCA, hydrated 
for urine output >30cc/hour, provided with pneumoboots and 
incentive spirometry for prophylaxis, and ambulated once.  On 
POD1, the patient was restarted on home medications, basic 
metabolic panel and complete blood count were checked, pain 
control was transitioned from PCA to oral analgesics, diet was 
advanced to a clears/toast and crackers diet. On POD2, he was 
provided foley care instructions by nursing and his diet was 
advanced as tolerated. The hospital course was unremarkable. Dr. 
___ was discharged in stable condition, eating well, 
ambulating independently, and with pain control on oral 
analgesics. On exam, incision was clean, dry, and intact, with 
no evidence of hematoma collection or infection. Dr. ___ was 
given explicit instructions to follow-up in clinic in for trial 
of void in about one week. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
2. Atorvastatin 40 mg PO QPM 
3. Cephalexin ___ mg PO ONCE pre-dental procedures 
4. Diazepam ___ mg PO QHS:PRN insomnia 
5. DULoxetine ___ 30 mg PO BID 
6. Lisinopril 10 mg PO DAILY 
7. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
2.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN BREAKTHROUGH 
PAIN 
RX *oxycodone 5 mg ONE tablet(s) by mouth q6hrs Disp #*15 Tablet 
Refills:*0 
3.  Senna 8.6 mg PO BID  
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
5.  Atorvastatin 40 mg PO QPM  
6.  Cephalexin ___ mg PO ONCE pre-dental procedures  
7.  Diazepam ___ mg PO QHS:PRN insomnia  
8.  DULoxetine ___ 30 mg PO BID  
9.  Lisinopril 10 mg PO DAILY  
10.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right ureteral tumor
urothelial carcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-please reference the nursing provided handout on foley care, 
hygiene

-Resume your pre-admission/home medications except as noted. 
ALWAYS call to inform, review and discuss any medication changes 
and your post-operative course with your primary care doctor.

-___ reduce the strain/pressure on your abdomen and incision 
sites; remember to “log roll” onto your side and then use your 
hands to push yourself upright while taking advantage of the 
momentum of putting your legs/feet to the ground.

--There may be bandage strips called “steristrips” which have 
been applied to reinforce wound closure.  Allow these bandage 
strips to fall off on their own over time but PLEASE REMOVE ANY 
REMAINING GAUZE DRESSINGS WITHIN 2 DAYS OF DISCHARGE. You may 
get the steristrips wet.

-UNLESS OTHERWISE NOTED; AVOID aspirin or aspirin containing 
products and supplements that may have “blood-thinning” effects 
(like Fish Oil, Vitamin E, etc.).  This will be noted in your 
medication reconciliation. 

IF PRESCRIBED (see the MEDICATION RECONCILIATION):
-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control.  

For pain control, try TYLENOL (acetaminophen) FIRST, then 
ibuprofen, and then take the narcotic pain medication as 
prescribed if additional pain relief is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-Call your Urologist's office to schedule/confirm your follow-up 
appointment in 4 weeks AND if you have any questions.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised. Light household chores/activity and leisurely 
walking/activity is OK and should be continued. Do NOT be a 
“couch potato”

-Tylenol should be your first-line pain medication. A narcotic 
pain medication has been prescribed for breakthrough pain ___.

-Max daily Tylenol (acetaminophen) dose is THREE to FOUR grams 
from ALL sources

•AVOID lifting/pushing/pulling items heavier than 10 pounds (or 
3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up.

-No DRIVING for TWO WEEKS or until you are cleared by your 
Urologist

-You may shower normally but do NOT immerse your incisions or 
bathe

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given “prescriptions” for a stool softener and/or a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 
 
Followup Instructions:
___